US05811432
B. 5-Chloro-6-azaoxindole
(5-Amino-2-chloro-4-pyridyl)acetonitrile (1.40 g, 8.4 mmol) was taken up in 6N HCl solution (100 mL) and heated between 50° and 100° C. for 2 hours. After cooling, the solution was adjusted to pH 7 by addition of solid NaHCO3 and extracted with ethyl acetate. The combined ethyl acetate extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was subjected to flash chromatography on silica gel using ethyl acetate as eluant. (Some methanol was used to help dissolve the solid). Fractions containing the desired product were combined and concentrated to leave the title compound as a solid (650 mg, 46%), m.p. 230° C. (dec.) The NMR spectrum indicated that this material contained a small amount of the by-product, 2-amino-5-chloro-6-azaindole in addition to the title compound. Nonetheless, this material was used in the next step without further purification.

reactant | (5-Amino-2-chloro-4-pyridyl)acetonitrile | 8.4 mmol, 1.40 g | NC=1C(=CC(=NC1)Cl)CC#N | C7H6ClN3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HCl | 6N, 100 mL | Cl | ClH
product | 5-Chloro-6-azaoxindole | 650 mg, 46% | ClC=1C=C2CC(NC2=CN1)=O | C7H5ClN2O
